Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Shellfish / Augmentin
 
Attending: ___.
 
Chief Complaint:
Chest pain and palpatations
 
Major Surgical or Invasive Procedure:
Cardiac Catheterization ___
ICD Placement ___

 
History of Present Illness:
Ms. ___ is a ___ with h/o Rt breast cancer ___ pT2N1a, 
low ER+, PR-, HER2+, s/p C3 of TDM1/pertuzumab, Rt total 
mastectomy and axillary LN dissection in ___, now on C1 CMF) 
who p/w prog intermittent episodes of diaphoresis, palpitations, 
chest pressure to ___, found to be in ___, transferred to 
___ for further w/u

Pt states that for last few months-years, has had occasional e/o 
chest pressure, diaphoresis, palp, neuro Sx. These have gotten 
worse over last few months. No radiation to the back, no tearing 
quality to the pain. Short lasting, self-resolve. No associated 
pre-syncope or syncope, though feels LH/dizzy when occur. No 
PMHx/FMHx of cardiac Dz/arrythmia. Sx increasingly progressed 
over last few days, came to ___. On initial eval there, 
EKG was w/o ischemic changes, Mg 1.7, but other lytes wnl, trop 
neg. Was given ASA 243mg. However, she was noted to have 
multiple e/o PMVT and frequent PVCs on tele. Had elevated 
D-dimer, CT-A chest neg for PE. She was started on amiodarone 
gtt and transferred to ___ for further evaluation. 
 
In the ED initial vitals were: T98.1 85 114/70 18 97% RA  
 EKG: NSR 77 BPM, normal axis, normal PR and QRS intervals, QTC 
462 msec, no evidence of bypass tract, no significant ST/TW 
changes suggestive of ischemia 
 Labs/studies notable for: 5.6 > 11.0 < 226, Na 141, Cr 0.8  
 POCUS w/no tamponade and adequate global squeeze
 Patient was given: ___ gtt, IV Protonix 40mg  
 Vitals on transfer: afebrile, 95, 133/65, 17, 95% RA 
 
On the floor, pt states her diaphoresis, LH/dizziness, cp, SOB 
episodes previously were lasting only a few seconds, now last 
___ sec. Also a/w frequent paresthesias. Has never had 
LOC/falls, though sig pre-syncope that resolves. In the last 3d, 
has had ___ episodes/day, previously only was having 1x/few wks 
at most. Chest pressure with palpitations, non-radiating. No N/V 
with episodes, though occurring with chemo regimen. Had a mild 
episode at ___ that correlated with changes on tele per 
patient.

Per pt, has calcifications. Has had 3x stress tests, reportedly 
all neg and 2x holter monitors, last ___ yrs, reportedly neg, all 
done with Dr ___. No hx of cath. Pt is concerned that episodes 
have worsened since starting chemo, is unsure if should resume 
chemo treatments q3wks (still has 4x remaining).
 
+diarrhea/vomiting x3d last week, had to get IVF at ___, with 
brief improvement. has taken 2x Zofran over last week. Now 
constipated. +dry cough with episodes. No dysuria. +chronic 
SOB/DOE. Denies GIB. 
 
Past Medical History:
1. CARDIAC RISK FACTORS     
 + Dyslipidemia (previously intolerant of Crestor) 
2. CARDIAC HISTORY  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY 
-ARTHRITIS LEFT KNEE   
-ASTHMA   
-GASTROESOPHAGEAL REFLUX   
-FATTY LIVER   
-BREAST CANCER 
 
Social History:
___
Family History:
Mother: ___, DVT
Father: ___
Brother: DVT
Sister: ___ Cancer, DVT
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  
 
Physical Exam:
ADMISSION EXAM
==============
VITALS: 97.6 PO 131 / 84 L Sitting 85 18 98 RA  
GENERAL: NAD. Pleasant, mild depressed mood
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. 
NECK: Supple, no JVD  
CARDIAC: RRR, normal S1, S2. II/VI RUSB and Apical, 
non-radiating
LUNGS: CTABL. No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No rebound/guarding
EXTREMITIES: Trace ___ edema b/l, non-pitting. Mild swelling on 
Lt UE by infiltrated PIV
SKIN: No rashes observed  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE EXAM
==============
___ 0735 Temp: 98.6 PO BP: 105/65 R Lying HR: 80 RR: 18 O2
sat: 94% O2 delivery: RA 
GENERAL: NAD. Pleasant, mild depressed mood
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. 
NECK: Supple, no JVD  
CARDIAC: RRR, normal S1, S2. II/VI RUSB and Apical, 
non-radiating
ICD incision site c/d/I. 
LUNGS: CTABL. No crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No rebound/guarding
EXTREMITIES: Trace ___ edema b/l, non-pitting
SKIN: No rashes observed  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
ADMISSION LABS
=============
___ 05:00AM BLOOD WBC-5.6 RBC-3.87* Hgb-11.0* Hct-33.5* 
MCV-87 MCH-28.4 MCHC-32.8 RDW-14.5 RDWSD-44.9 Plt ___
___ 05:00AM BLOOD Glucose-107* UreaN-14 Creat-0.8 Na-141 
K-4.6 Cl-105 HCO3-26 AnGap-10
___ 05:00AM BLOOD Calcium-9.2 Phos-2.9 Mg-2.0

RELEVANT IMAGING
===============
KG: NSR 77 BPM, normal axis, QTC 453, no sig ST changes from
prior

TTE ___
The left atrium is normal in size. No atrial septal defect is
seen by 2D or color Doppler. The estimated right atrial pressure
is ___ mmHg. Left ventricular wall thicknesses and cavity size
are normal. Regional left ventricular wall motion is normal. 
Left
ventricular systolic function is hyperdynamic (EF>75%). The
estimated cardiac index is high (4.0L/min/m2). Right ventricular
chamber size and free wall motion are normal. The diameters of
aorta at the sinus, ascending and arch levels are normal. The
aortic valve leaflets (3) are mildly thickened. There is no
valvular aortic stenosis. The increased transaortic velocity is
likely related to high cardiac output. No aortic regurgitation 
is
seen. The mitral valve leaflets are mildly thickened. There is 
no
mitral valve prolapse. Trivial mitral regurgitation is seen.
There is mild pulmonary artery systolic hypertension. There is 
no
pericardial effusion. 
IMPRESSION: Hyperdynamic left ventricular systolic function. No
pathologic valvular flow.  

CXR ___
Conclusion: Cardiomegaly. Right mastectomy and axillary surgical
staples. Otherwise Normal AP view of the chest.  No active/acute
chest disease.

CT-A Chest ___
Conclusion:
1. No evidence of pulmonary emboli. Cardiomegaly, Question
minimal CHF, as noted. Possibly an element of air trapping.
2. Single indeterminate right medial base subpleural opacity.
Also a tiny 2 mm RML subpleural nodule. Consider short-term
follow-up in 6 months, alternatively compare with any available
priors. 
3. Right mastectomy. Other incidental findings as noted.

TTE ___ (DFCI)
The LV cavity size and wall thickness are normal. LV Sys fxn is
normal. There are no segmental Lt ventricular wall motion
abnormalities notes. The estimated EF is 65%. The estimated RV
sys pressure is 21mmHg assuming a RA pressure of 5. Compared to
prior study of ___, no important changes

cMRI ___
Asymmetric septal left ventricular hypertrophy with
small cavity and hyperdynamic systolic function. There is
evidence of systolic anterior movement of anterior mitral 
leaflet
and LVOT gradient at rest. Normal right ventricular cavity size
and free wall motion. Allowing for poor quality of post contrast
sequences, there is no definite late gadolinium enhancement. The
CMR findings are suggestive of hypertensive hypertrophic
cardiomyopathy of the elderly.

DISCHARGE LABS
=============

___ 06:35AM BLOOD WBC-3.4* RBC-3.80* Hgb-10.7* Hct-33.2* 
MCV-87 MCH-28.2 MCHC-32.2 RDW-15.5 RDWSD-48.9* Plt ___
___ 06:35AM BLOOD Glucose-124* UreaN-15 Creat-0.9 Na-137 
K-4.7 Cl-102 HCO3-22 AnGap-13
___ 06:35AM BLOOD Calcium-8.3* Phos-3.0 Mg-2.5
 
Brief Hospital Course:
Ms. ___ is a ___ with h/o Rt breast cancer ___, s/p C3 of 
TDM1/pertuzumab, Rt total mastectomy & axillary LN dissection in 
___, now on C1 CMF) who p/w prog intermittent episodes of 
diaphoresis, palpitations, chest pressure to ___, found to 
have PMVT, transferred to ___ for further w/u, mild CAD 
detected on Lt heart cath, cMRI suggestive of hypertrophic 
cardiomyopathy, s/p EP evaluation w/ICD placement

-CORONARIES: LAD, LCX mild disease
-PUMP: LVEF 75% 
-RHYTHM: NSR + PMVT on ___ tele

# Polymorphic VT:
Pt with diff to describe episodes w/increasing frequency at 
home, found to have recurrent PMVT at ___, including 
during episode, started on amio gtt and transferred to ___. 
Episodes had been ongoing for many months, though worsening in 
recent days prior to admission. Trigger for PMVT is broad DDx, 
including initiation of recent chemo, past TDM1/Pertuzumab 
administration, lytes abnormality from chemo-related GI Sx, 
Zofran use. On arrival here, pt continued to have several very 
short episodes of PMVT induced by PVCs. Started on PO Dilt for 
potential coronary vasospasm & amio gtt DC'd. Ischemic workup 
neg via LHC, showed mild LCx/LAD Dz. TTE showed mild resting 
LVOT + ___ of MV leaflets, mild symmetric LVH, hyperdynamic 
LVEF. Cardiac MRI showing signs of hypertrophic cardiomyopathy, 
w/o scar. After much discussion, EP recommended iCD placement in 
setting of cMRI findings and recurrent PMVT. Was also restarted 
on PO Amiodarone, started on 400 TID w/plan for taper as outpt.

# Normocytic anemia(stable): Recent baseline Hb 12.5-13.5, admit 
Hb of 11.0, stable over admission, likely ___ recent chemo

CHRONIC ISSUES
==============
# Breast Cancer: Follows at ___ w/Dr ___ in ___, 
pT2N1a, low ER+, PR-, HER2+, s/p C3 of TDM1/pertuzumab w/poor 
response, went for Rt total mastectomy and axillary LN 
dissection
in ___, now on C1 CMF. Continued prn Ativan for nausea, held 
QTc prolonging meds

# Asthma: c/w home albuterol prn

TRANSITIONAL ISSUES
===================
[] Pt had iCD placed for intermittent polymorphic VT of unclear 
etiology, might be related to HoCM observed on cMRI. Also 
started on amiodarone 400mg tid while inpatient, transitioned to 
400mg bid for 10 days following discharge, followed by 400mg 
daily until follow-up with Dr. ___. Will also finish 3d total 
post-iCD Abx ppx
[] Started on ASA 81mg + low dose statin for mild CAD seen on 
cath, consider uptitration as tolerated 

# DC WEIGHT: 79.4kg (175.04 lbs)
# CODE: Full Code (confirmed) 
# CONTACT: HCP: ___ (hcp/partner - ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN 
2. esomeprazole magnesium 20 mg oral DAILY 
3. LORazepam 0.5 mg PO QHS:PRN insomnia 
4. Dulera (mometasone-formoterol) 200-5 mcg/actuation inhalation 
DAILY:PRN 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Amiodarone 400 mg PO BID 
RX *amiodarone 400 mg 1 tablet(s) by mouth twice a day Disp #*20 
Tablet Refills:*0 
2.  Amiodarone 400 mg PO DAILY 
RX *amiodarone 400 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
4.  Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
5.  Clindamycin 300 mg PO Q6H 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*8 Capsule Refills:*0 
6.  Dulera (mometasone-formoterol) 200-5 mcg/actuation 
inhalation DAILY:PRN  
7.  esomeprazole magnesium 20 mg oral DAILY  
8.  LORazepam 0.5 mg PO QHS:PRN insomnia  
9.  Multivitamins 1 TAB PO DAILY  
10.  Ondansetron 4 mg PO Q8H:PRN nausea  
11.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=======
Polymoprhic Ventricular Tachycardia

SECONDARY
=========
Breast Cancer
Asthma
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to ___ after you were found to have an 
abnormal and potentially dangerous heart rhythm at ___. We 
had our electrophysiologists evaluate you after you had a 
cardiac catheterization that was negative. You had a cardiac MRI 
which showed that your heart wasn't pumping properly due to 
being abnormally thickened -- "Hypertrophic Cardiomyopathy". 
After some discussion, we decided it was most safe to place an 
ICD. We also started you on a new medication, called Amiodarone, 
to help prevent further dangerous heart rhythms from forming. 
Please take it at home as prescribed.

It was a pleasure taking care of you!

Your ___ Cardiology Team
 
Followup Instructions:
___